* C:\Users\ryanz\Senior Design\Hardware\LTSpice\LTC7801.asc
M§Q1 IN N002 N004 N004 BSC082N10LS
L1 N004 N005 22µ Rser=27m
C1 OUT 0 150µ x3 Rser=0.1
R1 OUT N009 768k
R2 N009 0 51k
C2 N003 N004 0.1µ
C3 0 N001 0.1µ
C4 N012 0 4.7n Rser=10K Cpar=100p
C5 N011 0 0.001µ
V1 IN 0 125
M§Q2 N004 N007 0 0 BSC082N10LS
Rload OUT 0 6
R4 N005 OUT 6m
C6 N005 OUT 1n
R5 N006 N001 511K
R8 0 N010 75K
C7 0 N013 4.7µ
XU1 0 MP_01 N005 OUT N011 N009 N012 0 MP_02 N001 MP_03 MP_04 0 N006 MP_05 MP_06 0 N010 0 N002 N004 N003 MP_07 N007 MP_08 N013 MP_09 N013 MP_10 IN MP_11 OUT MP_12 IN MP_13 MP_14 MP_15 N001 0 LTC7801
C8 IN 0 100µf
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ryanz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.2m startup
.lib LTC7801.sub
.backanno
.end
